US04868331
6-Benzenesulphonylamino-5,6,7,8-tetrahydro-naphth-1-yl-oxyacetic acid
10 mmol of 6-amino-5,6,7,8-tetrahydro-naphth-1-yl-oxyacetic acid and 20 mmol of benzenesulphonyl chloride are warmed at 80° C. in 40 ml of 10% strength NaOH for 2 hours. The mixture is then acidified with concentrated HCl and the milky suspension is extracted by shaking twice with ethyl acetate. The combined ethyl acetate phases are rapidly extracted by shaking with 10% strength NaOH (product precipitates out of the ethyl acetate), the NaOH phase is acidified with concentrated HCl and extracted by shaking twice with ethyl acetate and the extract is dried over Na2SO4 and evaporated. The residue is boiled up in ethyl acetate and the mixture is filtered. The product crystallizes out after 2-3 hours in a refrigerator.

reactant | 6-amino-5,6,7,8-tetrahydro-naphth-1-yl-oxyacetic acid | 10 mmol | NC1CC=2C=CC=C(C2CC1)OCC(=O)O | C12H15NO3
reactant | benzenesulphonyl chloride | 20 mmol | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | NaOH | [OH-].[Na+]
reactant | HCl | Cl | ClH
product | 6-Benzenesulphonylamino-5,6,7,8-tetrahydro-naphth-1-yl-oxyacetic acid | C1(=CC=CC=C1)S(=O)(=O)NC1CC=2C=CC=C(C2CC1)OCC(=O)O | C18H19NO5S
